### PR TITLE
[Merged by Bors] - feat: add IsNowhereDense helpers

### PR DESCRIPTION
**Pull request by LTolDe**
add new lemmas to prove `IsNowhereDense s`

- IsNowhereDense.mono
- Topology.IsInducing.isNowhereDense_image
- IsNowhereDense.image_val

these lemmas will help to prove the **Effros Theorem**, see [zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Effros.20Theorem/with/558712441)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/GDelta/Basic.lean [hunk 1]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.Order.Filter.CountableInter
 public import Mathlib.Topology.Closure
+public import Mathlib.Topology.Constructions
```
Comment (dupuisf) [inline Mathlib/Topology/GDelta/Basic.lean]:
```suggestion
public import Mathlib.Topology.Defs.Induced
public import Mathlib.Data.Set.Notation
import Mathlib.Topology.Constructions
```

File: Mathlib/Topology/GDelta/Basic.lean [hunk 2]
```diff
@@ -193,6 +196,11 @@ def IsNowhereDense (s : Set X) := interior (closure s) = ∅
 lemma isNowhereDense_empty : IsNowhereDense (∅ : Set X) := by
   rw [IsNowhereDense, closure_empty, interior_empty]
 
+/-- A subset of a nowhere dense set is nowhere dense. -/
+@[gcongr]
```
Comment (dupuisf) [inline Mathlib/Topology/GDelta/Basic.lean:207]:
```suggestion
```
I'm not sure the `gcongr` tag is useful here, it probably won't be able to figure which `s` to use. (I would also make `s` an explicit parameter, typically one will need to supply it explicitly.)

Comment (LTolDe) [reply Mathlib/Topology/GDelta/Basic.lean:207]: I was thinking of the following use case
```lean4
example {s t : Set X} (ht : t ⊆ s) (hs : IsNowhereDense s) : IsNowhereDense t := by
  grw [ht]
  exact hs
```
where `s` is inferred through `t ⊆ s`.
The parameters in this commit mimic the ones in `IsMeagre.mono`. I am not opposed to making the parameter `s` explicit here, but I feel it should then also be changed there.

File: Mathlib/Topology/GDelta/Basic.lean [hunk 3]
```diff
@@ -214,6 +222,21 @@ lemma isClosed_isNowhereDense_iff_compl {s : Set X} :
...
 
+/-- The image of a nowhere dense set through an inducing map is nowhere dense. -/
+lemma Topology.IsInducing.isNowhereDense_image {f : X → Y} [TopologicalSpace Y]
+    (hf : Topology.IsInducing f) {s : Set X} (h : IsNowhereDense s) : IsNowhereDense (f '' s) := by
+  rw [IsNowhereDense.eq_1] at *
+  contrapose! h
+  rw [hf.closure_eq_preimage_closure_image]
+  obtain ⟨y, o, ⟨isOpen_o, ho⟩, y_mem_o⟩ := h
+  obtain ⟨_, hx, x, x_mem_s, rfl⟩ := mem_closure_iff.mp (ho y_mem_o) o isOpen_o y_mem_o
+  refine ⟨x, f⁻¹' o, ⟨hf.continuous.isOpen_preimage o isOpen_o, by grw [ho]⟩, hx⟩
```
Comment (ADedecker) [inline Mathlib/Topology/GDelta/Basic.lean]: I was intrigued by this proof: it is slightly mathematically annoying, because you have to change the original `y` if it's not in `f '' s`. This led me to the following, which you should feel free to accept or not (i.e I have no preference):
```suggestion
/-- To check that `s` is nowhere dense, it suffices to check that no point of `s`
is in the interior of `closure s`. -/
lemma isNowhereDense_iff_disjoint {s : Set X} :
    IsNowhereDense s ↔ Disjoint s (interior (closure s)) :=
  ⟨fun H ↦ H ▸ disjoint_empty _, fun H ↦
    H.closure_left isOpen_interior |>.mono_left interior_subset |>.eq_bot_of_self⟩

/-- To check that `s` is nowhere dense, it suffices to check that `closure s` is not a
neighborhood of any point of `s`. -/
lemma isNowhereDense_iff_forall_notMem_nhds {s : Set X} :
    IsNowhereDense s ↔ ∀ x ∈ s, closure s ∉ 𝓝 x := by
  simp [isNowhereDense_iff_disjoint, disjoint_iff_inter_eq_empty, eq_empty_iff_forall_notMem,
    mem_interior_iff_mem_nhds]

/-- The image of a nowhere dense set through an inducing map is nowhere dense. -/
lemma Topology.IsInducing.isNowhereDense_image {f : X → Y} [TopologicalSpace Y]
    (hf : Topology.IsInducing f) {s : Set X} (h : IsNowhereDense s) : IsNowhereDense (f '' s) := by
  rw [isNowhereDense_iff_forall_notMem_nhds, forall_mem_image] at *
  simp_rw [hf.nhds_eq_comap, hf.closure_eq_preimage_closure_image] at h
  exact fun x x_mem hx ↦ h x x_mem (preimage_mem_comap hx)
```

Comment (LTolDe) [reply Mathlib/Topology/GDelta/Basic.lean]: This is much better, thank you so much!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
